** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/div_freq_x2.sch
**.subckt div_freq_x2 VDD VSS CLKOUT CLKIN
*.iopin VDD
*.iopin VSS
*.ipin CLKIN
*.opin CLKOUT
x1 VDD CLKIN VSS CLKOUT net1 reg_v2
x4 VDD net1 CLKOUT VSS inv
**.ends

* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_Cells/reg_v2.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_Cells/reg_v2.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_Cells/reg_v2.sch
.subckt reg_v2 VDD CLK VSS Q D
*.iopin VDD
*.iopin VSS
*.ipin CLK
*.ipin D
*.opin Q
*  x3 -  tg_custom  IS MISSING !!!!
*  x9 -  inv  IS MISSING !!!!
*  x4 -  inv  IS MISSING !!!!
*  x8 -  inv  IS MISSING !!!!
*  x11 -  inv  IS MISSING !!!!
*  x10 -  inv  IS MISSING !!!!
*  x2 -  tg_custom  IS MISSING !!!!
*  x6 -  tg_custom  IS MISSING !!!!
*  x7 -  tg_custom  IS MISSING !!!!
*  x5 -  inv  IS MISSING !!!!
*  x1 -  inv  IS MISSING !!!!
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_Cells/inv.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_Cells/inv.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_Cells/inv.sch
.subckt inv VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends

.end
